US07618990B2
4-(4-Bromophenyl)-1,3-thiazol-2-ylamine (2.00 g, 7.84 mmol) was dissolved in methylene chloride, diisopropylethylamine (1.50 mL, 8.62 mmol) was added and the mixture was cooled to 0° C. Acetoxy acetyl chloride (0.920 mL, 8.62 mmol) was added dropwise, the mixture was stirred for 2 h and then diluted with ethyl acetate. The mixture was washed with NaHCO3, water, brine, dried over anhydrous MgSO4, filtered and concentrated under reduced pressure. Flash chromatography (20% acetone/hexane) followed by recrystallization from acetone/hexane afforded 1.16 g of 2-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}-2-oxoethyl acetate (1.16 g, 42%) as a white solid. HRMS: calcd for C13H, BrN2O3S+H+, 354.97465; found (ESI, [M+H]+), 354.9738. Analytical HPLC: retention time 9.8 min, 210-370 nm the Xterra® RP18 column, 3.5%, 150×4.6 mm 40° C. 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min, 1.2 mL/min 5 μL injection.

reactant | 4-(4-Bromophenyl)-1,3-thiazol-2-ylamine | 7.84 mmol, 2.00 g | BrC1=CC=C(C=C1)C=1N=C(SC1)N | C9H7BrN2S
reactant | diisopropylethylamine | 8.62 mmol, 1.50 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Acetoxy acetyl chloride | 8.62 mmol, 0.920 mL | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}-2-oxoethyl acetate | 1.16 g, 42% | C(C)(=O)OCC(=O)NC=1SC=C(N1)C1=CC=C(C=C1)Br | C13H11BrN2O3S
